US09023864B2
Step 1: Propyl (4-Fluoro-6-methyl-7-oxo-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate
A solution of propyl (4-fluoro-7-oxo-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate in THF (0.17 M) was treated at −78° C. with a 1.0 M solution of NaHMDS in THF (1.2 eq.). After stirring for 10 min, MeI (2.0 eq.) was added. The cooling bath was removed and the mixture stirred for 1 hour, concentrated to dryness and the residue purified by chromatography on SiO2 (0-100% EtOAc/hexanes).

reactant | propyl (4-fluoro-7-oxo-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate | FC=1C=CC=C2C(=C3N(C12)CC(CC3)=O)CC(=O)OCCC | C17H18FNO3
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | MeI | 2.0 eq. | CI | CH3I
solvent | THF | 0.17 M | C1CCOC1 | C4H8O
solvent | THF | 1.2 eq. | C1CCOC1 | C4H8O
product | Propyl (4-Fluoro-6-methyl-7-oxo-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate | FC=1C=CC=C2C(=C3N(C12)C(C(CC3)=O)C)CC(=O)OCCC | C18H20FNO3
